US06002006
Ethyl 2-(diethoxyphosphinyl)-4-(2-(1,3-dioxolan-2-yl) ethyl)-1(2H)-quinoline carboxylate
75 ml of a 1.6 M solution of n-butyllithium in hexane is added at -78° C., to a solution containing 33.933 g of ethyl 2-(diethoxyphosphinyl-1(2H)-quinoline carboxylate in 500 ml of tetrahydrofuran. Next 18 ml of 2-(2-bromoethyl)-1,3-dioxolane is added. The reaction medium is allowed to return to ambient temperature, then maintained under agitation for 5 hours. 300 ml of water is added, followed by agitation and decanting. The organic phase is washed with water and dried followed by filtration and elimination of the solvent. 63.45 g of product is obtained which is purified by chromatography eluting with ethyl acetate. In this way the sought product is obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | diethoxyphosphinyl-1(2H)-quinoline carboxylate | C(C)OP(=O)(OCC)C1N(C2=CC=CC=C2C=C1)C(=O)[O-]
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 18 ml | BrCCC1OCCO1 | C5H9BrO2
reactant | water | 300 ml | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | Ethyl 2-(diethoxyphosphinyl)-4-(2-(1,3-dioxolan-2-yl) ethyl)-1(2H)-quinoline carboxylate | 63.45 g, Yield 62.7% | C(C)OP(=O)(C1N(C2=CC=CC=C2C(=C1)CCC1OCCO1)C(=O)OCC)OCC | C21H30NO7P
